US07635700B2
A solution of 2-amino-N-(2,6-dioxo-piperidin-3-yl)-6-chloro-benzamide (0.8 g, 2.8 mmol) and trimethyl orthoformate (4 mL) and p-toluene sulfonic acid (280 mg) was heated to 150° C. via a microwave oven for 30 minutes. To the mixture, was added methanol (15 mL), and the mixture was stirred for 5 minutes. The suspension was filtered and washed with methanol to give 3-(5-chloro-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione as a white solid (400 mg, 48% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 30/70 CH3CN/0.1% H3PO4, 2.35 min (99.2%); mp: 308-310° C.; 1H NMR (DMSO-d6) δ 2.13-2.19 (m, 1H, CHH), 2.57-2.72 (m, 2H, 2CHH), 2.83-2.89 (m, 1H, CHH), 5.43 (br, 1H, NCH), 7.60 (dd, J=1, 8 Hz, 1H, Ar), 7.66 (dd, J=1, 8 Hz, 1H, Ar), 7.79 (t, J=8 Hz, 1H, Ar), 8.39 (s, 1H, CH), 11.16 (s, 1H, NH); 13C NMR (DMSO-d6) δ 22.18, 30.84, 56.16, 118.35, 126.81, 129.74, 132.45, 134.54, 148.18, 149.98, 157.62, 169.68, 172.39; LCMS: MH=292, 294; Anal Calcd for C13H10N3O3Cl+0.15H2O: C, 53.04; H, 3.53; N, 14.27. Found: C, 52.68; H, 3.14; N, 14.17.

reactant | 2-amino-N-(2,6-dioxo-piperidin-3-yl)-6-chloro-benzamide | 2.8 mmol, 0.8 g | NC1=C(C(=O)NC2C(NC(CC2)=O)=O)C(=CC=C1)Cl | C12H12ClN3O3
reactant | trimethyl orthoformate | 4 mL | C(OC)(OC)OC | C4H10O3
reactant | p-toluene sulfonic acid | 280 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 15 mL | CO | CH4O
product | 3-(5-chloro-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione | 400 mg, 48% yield | ClC1=C2C(N(C=NC2=CC=C1)C1C(NC(CC1)=O)=O)=O | C13H10ClN3O3
